US04024164
2-Benzoyloxyethyl 12-acetoxyoleate
2-Benzoyloxyethyl 12-acetoxyoleate was prepared by the procedure of Example 1 from 16 gms (0.1 mole) of ethylene glycol monobenzoate and 36 gms (0.1 mole) of 12-acetoxyoleoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | ethylene glycol monobenzoate | 0.1 mole, 16 gms | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
reactant | 12-acetoxyoleoyl chloride | 0.1 mole, 36 gms | C(C)(=O)OC(C\C=C/CCCCCCCC(=O)Cl)CCCCCC | C20H35ClO3
product | 2-Benzoyloxyethyl 12-acetoxyoleate | C(C)(=O)OC(C\C=C/CCCCCCCC(=O)OCCOC(C1=CC=CC=C1)=O)CCCCCC | C29H44O6
